US07105544B2
N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-METHYLPHENYL]-2-METHYLPROPANAMIDE
Example 4 was prepared from diphenylacetyl chloride and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 8: 1H NMR (400 MHz, CDCl3) δ 7.39–7.23 (m, 12H), 7.14 (br, 1H), 7.08 (d, 1H, J=8.4 Hz), 6.90 (br, 1H), 4.91 (s, 1H), 3.41 (dd, 2H, J=6.4, 12.4 Hz), 2.95 (d, 2H, J=12.4 Hz), 2.66 (m, 1H), 2.47 (m, 1H), 2.40 (t, 2H, J=6.4 Hz), 2.28 (s, 3H), 2.03–1.97 (m, 2H), 1.74–1.62 (m, 6H), 1.22 (d, 6H, J=7.2 Hz); ESMS m/e: 512.3 (M+H)+.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | N-[3-(1-{3-[(DIPHENYLACETYL)AMINO]PROPYL}-4-PIPERIDINYL)-4-METHYLPHENYL]-2-METHYLPROPANAMIDE | C1(=CC=CC=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O)C1=CC=CC=C1 | C33H41N3O2
